US08486953B2
N-(3-(Dimethylamino)propyl)-4-(6-(furan-3-yl)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
To a suspension of methyl 4-(6-(furan-3-yl)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (0.155 g, 0.33 mmol) in EtOH/THF (5 mL, 3:2) was added aqueous sodium hydroxide (2M, 0.714 mL, 1.43 mmol) and the reaction mixture stirred at ambient temperature for 24 hours. The mixture was diluted with DCM and 10% aqueous KHSO4 and the organic layer separated. The organic phase was washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was diluted with DMF (2.0 mL) and cooled in ice-water. Hünig's base (32 L, 0.18 mmol) and HATU (0.076 g, 0.20 mmol) were added and the mixture was stirred at this temperature for 20 minutes when 3-(dimethylamino)-propylamine (0.100 mL, 0.91 mmol) was added. The coolant was removed and the reaction stirred at ambient temperature for 18 hours. The mixture was diluted with EtOAc, washed with water and brine (×2). The organic phase was dried (MgSO4), filtered and the solvent was removed in vacuo. The residue was purified by SCX-2 ion exchange chromatography to afford the title compound as an off-white solid (0.02 g, 11%).

reactant | methyl 4-(6-(furan-3-yl)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 0.33 mmol, 0.155 g | O1C=C(C=C1)C1=CC=C(C(=N1)OC1CCOCC1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC | C23H22N4O5S
reactant | sodium hydroxide | 1.43 mmol, 2M, 0.714 mL | [OH-].[Na+]
reactant | Hünig's base | 0.18 mmol, 32 L | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.20 mmol, 0.076 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(dimethylamino)-propylamine | 0.91 mmol, 0.100 mL | CN(CCCN)C | C5H14N2
solvent | EtOH THF | 5 mL | CCO.C1CCOC1
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | KHSO4 | OS(=O)(=O)[O-].[K+]
product | N-(3-(Dimethylamino)propyl)-4-(6-(furan-3-yl)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.02 g, 11% | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC(=CC2)C2=COC=C2)OC2CCOCC2)S1)C)C | C27H32N6O4S
